US08258141B2
H2: 4-Amino-piperidine-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide dihydrochloride
[1-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (0.45 g, 1.12 mmol) is treated with 4 M HCl (in dioxane)(2.5 ml) and methanol (1 ml, co-solvent) and the reaction mixture is allowed to stir at room temperature for 1 hour. The solvent is removed in vacuo and the resulting solid is dried in a vacuum oven to yield the title product.

reactant | [1-(3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 1.12 mmol, 0.45 g | C(C)(C)(C)OC(NC1CCN(CC1)C(NC1CCN(CC1)C1=NC=CC=C1)=O)=O | C21H33N5O3
reactant | HCl | 4 M, 2.5 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 4-Amino-piperidine-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide dihydrochloride | Cl.Cl.N1(CCC(CC1)NC(=O)N1CCC(CC1)N)C1=NC=CC=C1 | InChI=1S/C16H25N5O.2ClH/c17-13-4-9-21(10-5-13)16(22)19-14-6-11-20(12-7-14)15-3-1-2-8-18-15;;/h1-3,8,13-14H,4-7,9-12,17H2,(H,19,22);2*1H
